US06362141B1
A solution of 297 grams of a mixture of 70% Indancarbaldehyde and 30% indan-2-carbaldehyde, 300 grams of ethylene glycol, 6 grams of p-toluenesulfonic acid and 300 grams of toluene are heated 2 hours at reflux using a Dean-Stark trap to separate water. The mixture is cooled and washed with 200 milliliters of a 5 weight % sodium carbonate solution. The organic layer is distilled to provide 321 grams of 2-indanyl-4-methyl-1,3-dioxolane (b.p.121° C. at 3 mm).

reactant | Indancarbaldehyde | C1(CCC2=CC=CC=C12)C=O | C10H10O
reactant | indan-2-carbaldehyde | C1C(CC2=CC=CC=C12)C=O | C10H10O
reactant | ethylene glycol | 300 grams | C(CO)O | C2H6O2
catalyst | p-toluenesulfonic acid | 6 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 300 grams | C1(=CC=CC=C1)C | C7H8
product | 2-indanyl-4-methyl-1,3-dioxolane | 321 grams | C1(CCC2=CC=CC=C12)C1OCC(O1)C | C13H16O2
